US04287338
A mixture of 1.00 grams of 2-amino-6-methyl-4-(3,4,7,8-tetrahydro-1-(2H)-azocinyl)-pyridine-1-oxide, 1.00 grams of chlorosulfonic acid, and 2.5 grams of diisopropylamine in 25 ml of chloroform is stirred overnight. The mixture is concentrated in vacuo. The residue is stirred with aqueous sodium bicarbonate, filtered and washed with ether to give the crude product. This is recrystallized from DMF and ethyl acetate to yield the purified 2-amino-6-methyl-4-(3,4,7,8-tetrahydro-1(2H)-azocinyl)-1-(sulfooxy)-pyridinium hydroxide, inner salt.

reactant | 2-amino-6-methyl-4-(3,4,7,8-tetrahydro-1-(2H)-azocinyl)-pyridine-1-oxide | 1.00 grams | NC1=[N+](C(=CC(=C1)N1CCCC=CCC1)C)[O-] | C13H19N3O
reactant | chlorosulfonic acid | 1.00 grams | ClS(=O)(=O)O | ClHO3S
reactant | diisopropylamine | 2.5 grams | C(C)(C)NC(C)C | C6H15N
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-6-methyl-4-(3,4,7,8-tetrahydro-1(2H)-azocinyl)-1-(sulfooxy)-pyridinium hydroxide | [OH-].NC1=[N+](C(=CC(=C1)N1CCCC=CCC1)C)OS(=O)(=O)O | InChI=1S/C13H19N3O4S.H2O/c1-11-9-12(15-7-5-3-2-4-6-8-15)10-13(14)16(11)20-21(17,18)19;/h2-3,9-10,14H,4-8H2,1H3,(H,17,18,19);1H2
